US08202858B2
4-(3-Hydroxy-propyl)-piperidine-1-carboxylic Acid Tert-butyl Ester
4-(2-Carboxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 3.9 mmol, according to the procedure described in J. Med. Chem., 41(14), 2492, 1998) was dissolved in THF (50 ml) and cooled down to 0° C. 2M Borane solution in THF (3.9 ml, 7.8 mmol) was added slowly and the mixture was stirred for 20 h at room temperature. Water was added and solvents were concentrated in vacuo. The residue was dissolved in EtOAC, basified with NaHCO3, washed with brine, dried and concentrated in vacuo to yield the title compound (938 mg, 99%).

reactant | 4-(2-Carboxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | Borane | 2M | B | BH3
reactant | Water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 7.8 mmol, 3.9 ml | C1CCOC1 | C4H8O
product | 4-(3-Hydroxy-propyl)-piperidine-1-carboxylic Acid Tert-butyl Ester | 938 mg, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCO | C13H25NO3
